US07468457B2
c. Preparation of Methyl 4-benzyloxy-3-tert-butyl-5-iodobenzoate
24.1 g (72 mmol) of methyl 3-tert-butyl-4-hydroxy-5-iodobenzoate are dissolved in 200 mL of dimethylformamide. 3.47 g (86 mmol) of 60% sodium hydride are added slowly and the reaction medium is stirred for 1 hour. 9.4 mL (79 mmol) of benzyl bromide are then added and the medium is stirred at room temperature for 2 hours, and is then hydrolysed and extracted with ethyl ether. The organic phase is washed 3 times with water and then concentrated under reduced pressure. The residue is purified by chromatography (eluent: 98 heptane/2 ethyl acetate). A yellow oil is obtained (m=24.3 g; yield=80%).

reactant | methyl 3-tert-butyl-4-hydroxy-5-iodobenzoate | 72 mmol, 24.1 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1O)I | C12H15IO3
reactant | sodium hydride | 86 mmol, 3.47 g | [H-].[Na+]
reactant | benzyl bromide | 79 mmol, 9.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | Methyl 4-benzyloxy-3-tert-butyl-5-iodobenzoate | yield=80% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1I)C(C)(C)C | C19H21IO3
